US06797726B1
In 35 ml of N,N-dimethylformamide is dissolved 7.00 g of methyl 6-fluorobenzo[b]thiophene-5-carboxylate, to which is added 7.1 mL of a 28% methanol solution of sodium methoxide. The mixture is stirred at 80° C. for 4 hours. Water and ethyl acetate are added to the reaction mixture, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: hexane:ethyl acetate=20:1 to 3:1) to obtain 6.30 g of methyl 6-methoxybenzo[b]thiophene-5-carboxylate as an oily product.

reactant | methyl 6-fluorobenzo[b]thiophene-5-carboxylate | 7.00 g | FC=1C(=CC2=C(SC=C2)C1)C(=O)OC | C10H7FO2S
reactant | methanol | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-methoxybenzo[b]thiophene-5-carboxylate | 6.30 g | COC=1C(=CC2=C(SC=C2)C1)C(=O)OC | C11H10O3S
